US08937091B2
1-acryloyl-4-bromobenzene 8266
Bromobenzene (0.5 mL), acryloyl chloride (110 mg), and aluminium chloride (160 mg) were reacted in dichloromethane (1.5 mL) at from 0° C. to room temperature for 4 hours. The resultant was treated in the same manner as described in Example 1 to obtain the title compound (1207.0 mg).

reactant | Bromobenzene | 0.5 mL | BrC1=CC=CC=C1 | C6H5Br
reactant | acryloyl chloride | 110 mg | C(C=C)(=O)Cl | C3H3ClO
reactant | aluminium chloride | 160 mg | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-acryloyl-4-bromobenzene | 1207.0 mg | C(C=C)(=O)C1=CC=C(C=C1)Br | C9H7BrO
